US07285563B2
2,4-Difluoro-6-prop-1-ynylbenzaldehyde
To an ice-bath cooled mixture of 2,4-difluoro-6-hydroxybenzaldehyde (Description 70, 9.20 g; 58.2 mmol) and triethylamine (8.92 ml; 64.02 mmol) in anhydrous dichloromethane (100 ml) was added dropwise over 10 minutes trifluoromethanesulfonic anhydride (11.75 ml; 69.84 mmol) and the resulting mixture stirred at room temperature for 1 hour. The mixture was washed with water (300 ml), and the aqueous phase extracted with DCM (100 ml). The combined organic layers were washed with saturated NaCl (100 ml), dried over Na2SO4, filtered through a 1 inch plug of silica and evaporated. The residue (14.4 g; 49.6 mmol) and triethylamine (10.37 ml; 74.4 mmol) in anhydrous N,N-dimethylformamide (80 ml) contained within a large (200 ml capacity) sealed tube was cooled to −78° C. and propyne gas bubbled through until the volume had increased by approx 10 ml. To this mixture was added Pd(PPh3)2Cl2 (1.74 g; 2.48 mmol) and CuI (449 mg; 4.96 mmol), the lid was put in place and the tube allowed to reach room temperature. The reaction was stirred for 2 hours after which TLC showed reaction was complete. The mixture was poured onto water (500 ml) and extracted with EtOAc (3×150 ml); the combined EtOAc layers were washed with water (3×400 ml), saturated NaCl (150 ml), dried over Na2SO4, filtered through a 1 inch plug of silica and evaporated to give the title compound (8.7 g, 97%).

reactant | 2,4-difluoro-6-hydroxybenzaldehyde | 58.2 mmol, 9.20 g | FC1=C(C=O)C(=CC(=C1)F)O | C7H4F2O2
reactant | triethylamine | 64.02 mmol, 8.92 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 69.84 mmol, 11.75 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 74.4 mmol, 10.37 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 2.48 mmol, 1.74 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 4.96 mmol, 449 mg | [Cu]I
product | 2,4-Difluoro-6-prop-1-ynylbenzaldehyde | 8.7 g, 97% | FC1=C(C=O)C(=CC(=C1)F)C#CC | C10H6F2O
